US05334576
Preparation of methyl 6-acetoxymethyl-2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate
A solution of 37.6 g of methyl 2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate-1-oxide in 350 mL of acetic anhydride is stirred and heated at reflux for 31/2 hours. The reaction is concentrated in vacuo, and the residue is chromatographed on silica gel using hexane-ethyl acetate as eluant to give the desired product as a solid. Recrystallization of the solid from methylene chloride-hexanes affords analytically pure material, mp 111°-112° C.

reactant | methyl 2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylnicotinate-1-oxide | 37.6 g | C(C)(=O)N1C(=NC(C1=O)(C)C(C)C)C1=C(C(=O)OC)C=CC(=[N+]1[O-])C | C17H21N3O5
solvent | acetic anhydride | 350 mL | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 6-acetoxymethyl-2-(1-acetyl-4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | C(C)(=O)OCC1=NC(=C(C(=O)OC)C=C1)C=1N(C(C(N1)(C)C(C)C)=O)C(C)=O | C19H23N3O6
